US09102637B2
(b) 5-amino-2-(quinolin-4-ylamino)thiazole-4-carboxamide
A mixture of 4-isothiocyanatoquinoline (0.3 g, 1.6 mmol) and 2-amino-cyanoacetamide (0.26g, 2.68 mmol) in EtOAc (20 mL) was refluxed for 90 min. The reaction mixture was concentrated in vacuo, and the resulting solids were collected and washed with EtOAc to give 0.33 g (contained impurities) of the titled compound which was used in the next step without further purification.

reactant | 4-isothiocyanatoquinoline | 1.6 mmol, 0.3 g | N(=C=S)C1=CC=NC2=CC=CC=C12 | C10H6N2S
reactant | 2-amino-cyanoacetamide | 2.68 mmol, 0.26g | NC(C(=O)N)C#N | C3H5N3O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 5-amino-2-(quinolin-4-ylamino)thiazole-4-carboxamide | NC1=C(N=C(S1)NC1=CC=NC2=CC=CC=C12)C(=O)N | C13H11N5OS
